US04701459
A mixture of 3-nitrobenzaldehyde (100 g, 0.66 mole), ethylene glycol (49.3 g, 0.7 mole) and p-toluenesulfonic acid (0.8 g) and benzene (1 L) was heated at reflux with continuous removal of water via a Dean and Stark trap. After 4 hours, the mixture was cooled, filtered through a pad of neutral alumina and concentrated in vacuo to afford 2-(3-nitrophenyl)-1,3-dioxolane (130.4 g, 100%) as an amber oil used without further purification below.

reactant | 3-nitrobenzaldehyde | 0.66 mole, 100 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ethylene glycol | 0.7 mole, 49.3 g | C(CO)O | C2H6O2
reactant | benzene | 1 L | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid | 0.8 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 2-(3-nitrophenyl)-1,3-dioxolane | 130.4 g, 100% | [N+](=O)([O-])C=1C=C(C=CC1)C1OCCO1 | C9H9NO4
